US07635715B2
Step G: Preparation of Ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxylate
To a mixture of ethyl 5-hydroxy-7-imino-8,8-dimethyl-7,8-dihydroquinoline-6-carboxylate (100 mg, 384 μmol) and water (3 mL, 166525 μmol), was added H2SO4 (0.02 mL, 384 μmol). The resulting mixture was then heated to 80° C. After 30 minutes, 0.1 mL of H2SO4 was added. After 90 minutes, the reaction was cooled to room temperature and extracted with EtOAc. The organic phase was washed with water and then with saturated NaHCO3 and brine. The organic layer was dried over MgSO4 and concentrated in vacuo to give a light-yellow solid. The aqueous layer was concentrated in vacuo to give a white solid/yellow liquid. The solid was washed with EtOH and a white solid was filtered away. The filtrate was concentrated in vacuo to give a yellow solid. The solid was washed with DCM and the supernatant was decanted off. The solid was dissolved in MeOH and concentrated in vacuo to give a light-yellow solid which was washed once more with DCM and the supernatant was decanted away. The solid was placed under high-vacuum to leave a light-yellow solid which was purified by silica flash chromatography (0-10% MeOH/DCM) to give the title compound as a white crystalline solid (24 mg, 24%). MS (m/z)=262 (M+H)+. Calculated for C14H15NO4 261.3.

reactant | ethyl 5-hydroxy-7-imino-8,8-dimethyl-7,8-dihydroquinoline-6-carboxylate | 384 μmol, 100 mg | OC=1C=2C=CC=NC2C(C(C1C(=O)OCC)=N)(C)C | C14H16N2O3
reactant | water | 166525 μmol, 3 mL | O | H2O
reactant | H2SO4 | 384 μmol, 0.02 mL | OS(=O)(=O)O | H2O4S
reactant | H2SO4 | 0.1 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroquinoline-6-carboxylate | 24 mg, 24% | OC=1C=2C=CC=NC2C(C(C1C(=O)OCC)=O)(C)C | C14H15NO4
